US08373007B2
Synthesis of N-(3-formylquinolin-7-yl)acetamide
Triethylamine (1.52 g), N-(3-aminophenyl)acetamide (0.50 g) and n-butanol (2 mL) were added to a suspension of 3-(dimethylimino)-2-[(dimethylimino)methyl]-N,N-dimethyl-1-propene-1-aminium trichloride (1.45 g) in n-butanol (8 mL) at room temperature and were dissolved therein. The resulting solution was heated to 80° C., stirred for 3 hours and then cooled to room temperature. After addition of water (1 mL) to the reaction mixture, the solvent was distilled off under reduced pressure. The residue thus obtained was dissolved by addition of acetic acid (2 mL) and water (10 mL) and, again, the solvent was distilled off under reduced pressure. The resulting residue was dissolved by addition of water (10 mL) and the solution was adjusted to pH 8 with sodium hydrogen carbonate. After stirred at room temperature for 1 hour, precipitated crystals were collected by filtration and washed with water (10 mL). The crystals were dried under reduced pressure to obtain the title compound (0.63 g) as pale yellow crystals. Yield: 89%.

reactant | Triethylamine | 1.52 g | C(C)N(CC)CC | C6H15N
reactant | N-(3-aminophenyl)acetamide | 0.50 g | NC=1C=C(C=CC1)NC(C)=O | C8H10N2O
reactant | water | 1 mL | O | H2O
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | water | 10 mL | O | H2O
solvent | n-butanol | 8 mL | C(CCC)O | C4H10O
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | N-(3-formylquinolin-7-yl)acetamide | 0.63 g, Yield: 89% | C(=O)C=1C=NC2=CC(=CC=C2C1)NC(C)=O | C12H10N2O2
